US04672067
(ii) N-[[3-[3-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)propyl]-1H-indol-5-yl]methyl]formamide
Following the method described in Example 12 (i), a solution of 2-[3-[5-(aminomethyl)-1H-indol-3-yl]propyl]-1H-isoindole-1,3(2H)-dione, sulphate (0.75 g) was reacted with formic acetic anhydride (15 ml) in pyridine (27.5 ml) to give the title compound as a yellow solid (0.49 g) m.p. 150°-152° after crystallisation from ethyl acetate.

reactant | 2-[3-[5-(aminomethyl)-1H-indol-3-yl]propyl]-1H-isoindole-1,3(2H)-dione | NCC=1C=C2C(=CNC2=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C20H19N3O2
reactant | sulphate | 0.75 g | S(=O)(=O)([O-])[O-]
reactant | formic acetic anhydride | 15 ml | C(C)(=O)OC=O | C3H4O3
solvent | pyridine | 27.5 ml | N1=CC=CC=C1 | C5H5N
product | N-[[3-[3-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)propyl]-1H-indol-5-yl]methyl]formamide | 0.49 g | O=C1N(C(C2=CC=CC=C12)=O)CCCC1=CNC2=CC=C(C=C12)CNC=O | C21H19N3O3
